US04217294
Preparation of beta-triethoxysilylthiopropionamide
Into a clean, dry 300 milliliter high pressure reaction vessel was added 200 grams (0.92 moles) of beta-cyanoethyltriethoxysilane and 10 grams of diethylamine. The reactor was cooled to the temperature of solid carbon dioxide, and 42.0 grams (1.3 moles) of hydrogen sulfide was added via a calibrated metering system. The reactor was placed in a rocker and with agitation was heated to 60° C. for 5 hours. The pressure of the system increased to a maximum of 140 psig and decreased to 70 psig when the reaction was terminated. The final pressure at ambient temperature was 30 psig. The yield of crude beta-triethoxysilylthiopropionamide product was 258.4 grams. Analysis of the product mixture indicated 19 mg/g or 16% unreacted beta-cyanoethyltriethoxysilane.

reactant | beta-cyanoethyltriethoxysilane | 0.92 moles, 200 grams | C(#N)CC[Si](OCC)(OCC)OCC | C9H19NO3Si
reactant | diethylamine | 10 grams | C(C)NCC | C4H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrogen sulfide | 1.3 moles, 42.0 grams | S | H2S
product | beta-triethoxysilylthiopropionamide | C(C)O[Si](CCC(=S)N)(OCC)OCC | C9H21NO3SSi
